US07001897B2
To a solution of 3-t-butyldiphenylsilyloxy-1-(4-ethoxycarbonyl-1,3-thiazol-2-yl)azetidine (1.0 g, 2.14 mmol) (obtained as described in Reference Example 2(1)) in benzene (50 ml) was added a solution of 0.67M morpholine-trimethylaluminium in benzene (6.42 ml) at room temperature under an atmosphere of nitrogen. The reaction mixture was heated under reflux for 2 hours. After checking the completion of the reaction, 10% aqueous acetic acid solution (50 ml) and ethyl acetate (100 ml) were added to the reaction mixture in an ice bath, and then the resulting mixture was stirred at room temperature for 30 minutes. The reaction mixture was partitioned between ethyl acetate and water. The organic layer was washed successively with saturated aqueous sodium hydrogencarbonate solution and saturated aqueous sodium chloride solution, dried over anhydrous sodium sulfate, filtered and concentrated under reduced pressure. The residue was purified by chromatography on a silica gel column using n-hexane:ethyl acetate (3:1→1:3) as the eluant to afford 3-t-butyldiphenylsilyloxy-1-(4-morpholinocarbonyl-1,3-thiazol-2-yl)azetidine (1.05 g, yield 97%) as a pale brown solid.

reactant | 3-t-butyldiphenylsilyloxy-1-(4-ethoxycarbonyl-1,3-thiazol-2-yl)azetidine | 2.14 mmol, 1.0 g | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OC1CN(C1)C=1SC=C(N1)C(=O)OCC | C25H30N2O3SSi
reactant | morpholine trimethylaluminium | 0.67M | N1CCOCC1.C[Al](C)C
reactant | acetic acid | 50 ml | C(C)(=O)O | C2H4O2
reactant | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
solvent | benzene | 50 ml | C1=CC=CC=C1 | C6H6
solvent | benzene | 6.42 ml | C1=CC=CC=C1 | C6H6
product | 3-t-butyldiphenylsilyloxy-1-(4-morpholinocarbonyl-1,3-thiazol-2-yl)azetidine | 1.05 g, yield 97% | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OC1CN(C1)C=1SC=C(N1)C(=O)N1CCOCC1 | C27H33N3O3SSi
